US05849747
1.54 g of (2RS,3SR)-4-(4-bromophenyl)-3-(4-chlorophenyl)-2-butanol (prepared in the same manner as in Reference Example 1) was dissolved in 45 ml of dimethylformamide, and 1.4 g of tert-butyldimethylsilyl chloride and 1.2 g of imidazole were added thereto, followed by stirring at room temperature for one hour. Ethyl ether and water were added to the reaction solution for extraction. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to obtain 2.02 g (yield: 99%) of (2RS,3SR)-4-(4-bromophenyl)-2-(tert-butyldimethylsilyloxy)-3-(4-chlorophenyl)butane.

reactant | (2RS,3SR)-4-(4-bromophenyl)-3-(4-chlorophenyl)-2-butanol | 1.54 g | BrC1=CC=C(C=C1)CC(C(C)O)C1=CC=C(C=C1)Cl | C16H16BrClO
reactant | tert-butyldimethylsilyl chloride | 1.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.2 g | N1C=NC=C1 | C3H4N2
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2RS,3SR)-4-(4-bromophenyl)-2-(tert-butyldimethylsilyloxy)-3-(4-chlorophenyl)butane | 2.02 g, yield: 99% | BrC1=CC=C(C=C1)CC(C(C)O[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)Cl | C22H30BrClOSi
